US07176224B2
D. 3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy)phenyl)-2-methyl-2-phenoxypropionic acid
3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenyl)-2-methyl-2-phenoxypropionic acid ethyl ester (3.6 mmol) in MeOH (7 mL) was treated with 2N NaOH (7 mL) and warmed to 55° C. After 18 h, the mixture was concentrated under reduced pressure and then acidified with 5N HCl to pH=1. The solution was extracted with EtOAc and then the organic phases dried (Na2SO4), filtered and concentrated to a white solid. 1H NMR (400 MHz, CDCl3) δ 8.18, (s, 1H), (d, J=7.6 Hz, 1H), 7.62–7.58 (m, 3H),7.48 (t, J=7.6 Hz, 1H), 7.24–7.03 (m, 7H), 6.90 (t, J=8.4 Hz, 2H), 6.83 (t, J=8.4 Hz, 2H), 4.22 (t, J=6.8 Hz, 2H), 3.25 (d, J=14.0 Hz, 1H), 3.15 (d, J=14.0 Hz, 1H), 3.01 (t, J=6.8 Hz, 2H), 2.40 (s, 3H), 1.42 (s, 3H); MS (EI) 552.3 (M+H)+, 550.3 (M−H)−.

reactant | 3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | 3.6 mmol | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=C(C=C1)F)(OC1=CC=CC=C1)C)=O | C36H34FNO5
reactant | NaOH | 2N, 7 mL | [OH-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | 3-(4-{2-[2-(4′-Fluorobiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy)phenyl)-2-methyl-2-phenoxypropionic acid | FC1=CC=C(C=C1)C1=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(OC1=CC=CC=C1)C)C | C34H30FNO5
